US05728724
[2-(4-Methoxyphenyl)methyl-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]-methanone (6.0 g, 13.7 mmol) in THF (51 mL) was reacted with a 0.83M THF solution of 4-methoxybenzylmagnesium bromide (19.8 mL, 16.4 mmol) (prepared from 4-methoxybenzylchloride and magnesium turnings in THF) at ambient temperature. Purification by chromatography (silica gel, 1:1 hexane:ethyl acetate, 0.1% ammonium hydroxide) and recrystallization from ethyl acetate gave 2.08 g (29%) of the title compound as tan crystals, mp 126° C.: 1H NMR (300 MHz) δ1.3-1.5 (m, 2H), 1.5-1.7 (m, 4H), 2.4-2.6 (br m, 4H), 2.77 (br m, 2H), 3.73 (s, 3H), 3.83 (s, 3H), 4.08 (s, 2H), 4.23 (br m, 2H), 6.82 (d, J=8.5 Hz, 2H), 6.90 (dd, J=2.5, 8.8 Hz, 1H), 7.06 (d, J=8.7 Hz, 2H), 7.16 (d, J=8.6 Hz, 2H), 7.27 (d, J=8.9 Hz, 1H), 7.43 (d, J=2.3 Hz, 1H), 7.80 (d, J=8.7 Hz, 2H); IR (CHCl3) 1645, 1600 cm-1 ; HRMS (FAB+) m/e calc'd for C31H34NO4S 516.2208 (MH+), found 516.2200; Anal. calc'd. for C31H33 NO4S.0.5H2O: C, 70.95; H, 6.54; N, 2.67. Found: C, 71.17; H, 6.51; N, 2.56.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]-methanone | 13.7 mmol, 6.0 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 4-methoxybenzylmagnesium bromide | 16.4 mmol, 19.8 mL | COC1=CC=C(C[Mg]Br)C=C1
solvent | THF | 51 mL | C1CCOC1 | C4H8O
solvent | THF | 0.83M | C1CCOC1 | C4H8O
product | [2-(4-Methoxyphenyl)methyl-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone | 2.08 g, 29% | COC1=CC=C(C=C1)CC=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC | C31H33NO4S
